US09061999B2
2-chloro-5-(2-piperidinoethoxy)aniline (500 mg, 1.9 mmol, 1 eq.) was placed in mixture of acetone (653 μL) and water (852 μL) in the presence of K2CO3(541 m g, 3.9 mmol, 2 eq.). Cinnamoyl chloride (326 mg, 1.9 mmol, 1 eq.) was then added at 0° C. The reaction mixture was allowed to warm-up to room temperature, stirred for 2 hours and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)cinnamamide (521 mg, 69%).

reactant | 2-chloro-5-(2-piperidinoethoxy)aniline | 1.9 mmol, 500 mg, 1 eq. | ClC1=C(N)C=C(C=C1)OCCN1CCCCC1 | C13H19ClN2O
reactant | acetone | 653 μL | CC(=O)C | C3H6O
reactant | K2CO3 | 3.9 mmol, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Cinnamoyl chloride | 1.9 mmol, 326 mg, 1 eq. | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | water | 852 μL | O | H2O
product | N-(2-chloro-5-(2-(piperidin-1-yl)ethoxy)phenyl)cinnamamide | 521 mg, 69% | ClC1=C(C=C(C=C1)OCCN1CCCCC1)NC(C=CC1=CC=CC=C1)=O | C22H25ClN2O2
